US07829707B2
(b) (6-Ethoxy-pyridin-2-yl)-methanol
NaBH4 (5.7 g, 151 mmol) was added in portions during 35 minutes to 6-ethoxy-pyridine-2-carboxylic acid ethyl ester (1.5 g, 7.5 mmol) in EtOH (75 mL). The resulting mixture was stirred at ambient temperature for two days. Water was added and the mixture was extracted with CH2Cl2. The organic phase was dried (Na2SO4), filtered and then concentrated to give the title product (0.85 g) in 74% yield as an oil. This material was used in the next step without further purification.

reactant | NaBH4 | 151 mmol, 5.7 g | [BH4-].[Na+]
reactant | 6-ethoxy-pyridine-2-carboxylic acid ethyl ester | 7.5 mmol, 1.5 g | C(C)OC(=O)C1=NC(=CC=C1)OCC | C10H13NO3
reactant | Water | O | H2O
solvent | EtOH | 75 mL | CCO | C2H6O
product | (6-Ethoxy-pyridin-2-yl)-methanol | 0.85 g, 74% yield | C(C)OC1=CC=CC(=N1)CO | C8H11NO2
